US07034039B2
A mixed solution of tert-butyl[4-(2-fluorophenyl)-2-isobutyl-1-oxo-6-trifluoromethanesulfonyloxy-1,2-dihydro-3-isoquinolinyl]methylcarbamate (2.86 g, 5 mmol), 1,1′-bis(diphenylphosphino)ferrocene (0.14 g, 0.25 mmol), triethylamine (0.77 mL, 5.5 mmol) and palladium acetate (56 mg, 0.25 mmol) in tetrahydrofuran (20 mL) and methanol (20 mL) was stirred with heating at 100° C. under a carbon monoxide atmosphere at 5 atm for 1 h. The reaction mixture was poured into water and extracted with ethyl acetate. After washing the extract with water, the extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give methyl 3-[[(tert-butoxycarbonyl)amino]methyl]-4-(2-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinecarboxylate (2.23 g, 92.5%) as crystals.

reactant | tert-butyl[4-(2-fluorophenyl)-2-isobutyl-1-oxo-6-trifluoromethanesulfonyloxy-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 5 mmol, 2.86 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=C(C=CC=C1)F)OS(=O)(=O)C(F)(F)F)=O)CC(C)C)=O | C26H28F4N2O6S
reactant | triethylamine | 5.5 mmol, 0.77 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | methanol | 20 mL | CO | CH4O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.25 mmol, 0.14 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | palladium acetate | 0.25 mmol, 56 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 3-[[(tert-butoxycarbonyl)amino]methyl]-4-(2-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinecarboxylate | 2.23 g, 92.5% | C(C)(C)(C)OC(=O)NCC=1N(C(C2=CC=C(C=C2C1C1=C(C=CC=C1)F)C(=O)OC)=O)CC(C)C | C27H31FN2O5
